* SPDX-License-Identifier: Apache-2.0
* DC tail-bias characterization for the experimental GF180 CML transmitter.
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.include /src/serdes_tx.spice

VVDD VDD 0 3.3
VBIAS VBIAS 0 0.5
VINP INP 0 3.3
VINN INN 0 0
VLOAD0 LOAD_EN0_N 0 0
VLOAD1 LOAD_EN1_N 0 0
VLOAD2 LOAD_EN2_N 0 0
VLOAD3 LOAD_EN3_N 0 3.3
XDUT INP INN OUTP OUTN VBIAS LOAD_EN0_N LOAD_EN1_N LOAD_EN2_N LOAD_EN3_N VDD 0 serdes_tx

.control
set wr_singlescale
set wr_vecnames
dc VBIAS 0.5 2.5 0.01
wrdata /work/bias-sweep.dat v(VBIAS) v(OUTP) v(OUTN) v(XDUT.TAIL) i(VVDD)
.endc
.end
